US08476457B2
1-Isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid methyl ester (0.5 g, 1.62 mmol) was dissolved in methanol (30 mL) and 2N aqueous NaOH (3 mL) was added. The reaction mixture was stirred at room temperature overnight, then partitioned between 1N aqueous HCl and ethyl acetate. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure to provide 0.48 g (100%) of 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid

reactant | 1-Isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid methyl ester | 1.62 mmol, 0.5 g | COC(=O)C1=CC(=C2C=NN(C2=C1)C(C)C)C1=NC=C(C=C1)C | C18H19N3O2
reactant | NaOH | 2N, 3 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid | 0.48 g, 100% | C(C)(C)N1N=CC2=C(C=C(C=C12)C(=O)O)C1=NC=C(C=C1)C | C17H17N3O2
